US08247401B2
Step D: N-[(1R)-1-(5-Fluoropyridin-2-yl)ethyl]-2-methylpropane-2-sulfinamide
To a solution of N-[(1E)-(5-fluoropyridin-2-yl)methylene]-2-methylpropane-2-sulfinamide (52.12 g, 228 mmol) in dichloromethane (1000 mL) at −78° C. was added methylmagnesium bromide (3.0 M in THF; 198 mL, 594 mmol). The mixture was allowed to warm to ambient temperature. After 30 min, the mixture was cooled down to −78° C. and was quenched with saturated aqueous ammonium chloride (100 mL). The mixture was allowed to warm to ambient temperature. The organic layer was separated and the aqueous layer was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% ethyl acetate) gave the title compound. MS 245 (M+1).

reactant | N-[(1E)-(5-fluoropyridin-2-yl)methylene]-2-methylpropane-2-sulfinamide | 228 mmol, 52.12 g | FC=1C=CC(=NC1)\C=N\S(=O)C(C)(C)C | C10H13FN2OS
reactant | methylmagnesium bromide | 594 mmol, 3.0 M, 198 mL | C[Mg]Br
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
product | N-[(1R)-1-(5-Fluoropyridin-2-yl)ethyl]-2-methylpropane-2-sulfinamide | FC=1C=CC(=NC1)[C@@H](C)NS(=O)C(C)(C)C | C11H17FN2OS
